.SUBCKT LT1251     1 2 3 4 5 6 7 8 9 10 11 12 13 14
*
*FIRST INPUT STAGE
IB1    1    0   500NA
RI1    1    0   17MEG
C1     1    0   1.5PF
E1    2A    0   VALUE={LIMIT (V(1),V(8N)+0.4,V(8P)-0.4)+V(EN)/30}
VOS1  2A   2B   2.5MV 
R1    2B    2   27
C2     2    0   1PF
*
*SECOND INPUT STAGE
IB2   14    0   450NA
RI2   14    0   17MEG
C14   14    0   1.5PF
E2   13A    0   VALUE={LIMIT (V(14),V(8N)+0.4,V(8P)-0.4)+V(EN)/30}
VOS2 13A  13B   1.5MV
R2   13B   13   27
C13   13    0   1PF
*
*CONTROL AMP
IBC    3    0   -300NA
RIC    3    0   100MEG
C3     3    0   1PF
R3     3   3A   1600
CBWC  3A    0   10PF
EC    3B    0   3A   0   1.0
VOSC  3B    4   5MV
C4     4    0   1PF
RC     4    5   5K
C5     5    0   1PF
*
*FULL SCALE AMP
IBFS  12    0   -300NA
RIFS  12    0   100MEG
C12   12    0   1PF
R12   12  12A   1600
CBWFS 12A   0   10PF
EFS   12B   0   12A   0   1.0
VOSFS 12B  11   -5MV
C11   11    0   1PF
RFS   11   10   5K
C10   10    0   1PF
*
*GENERATING K
EK K 0 TABLE {I(VOSC)/I(VOSFS)} = (-100,0)    (0.04,0)   (0.1,0.11) (0.9,0.907) (0.95,1.0) (100,1.0)
RDUMMY    K     0  1MEG
RNOISE1    EN    0  200K
RNOISE2	   EN    0  200K
*GENERATES 40.7NV/RTHZ
*
*NULL CIRCUIT
GNULL  7 6A  VALUE={I(VOSFS)}
RN1   6A  7  200
VNULL 6A 6B  0.0V
RN2   6B  6  400
C6     6  7  1PF
*
*OUTPUT STAGE
E6   8A    0 VALUE={1.8MEG*(I(VOS1)*V(K)+I(VOS2)*(1-V(K))-I(VNULL)+0.10UA+0.0007*V(EN))}
RG   8A   8B   1.8MEG
CG   8B    0   3.4PF
E8   8C    0   8B  0  1.0
V8   8C   8D   0.0V
R8   8D    8   11
*
*OUTPUT SWING AND CURRENT LIMIT
DP  8B 8P D1
VDP 8P 9 -1.4V
DN  8N 8B D1
VDN 8N 7  1.4V
.MODEL D1 D
GCL 8B 0 TABLE {I(V8)}=(-1,-1) (-0.04,0) (0.04,0) (1,1)
*
*SUPPLY CURRENT
GQ  9  7 VALUE={1MA+24*I(VOSFS)+(V(7)-V(9))/20K}
GCC 9  0 TABLE {I(V8)}=(-1,0) (0,0) (1,1)
GEE 7  0 TABLE {I(V8)}=(-1,-1) (0,0) (1,0)
*
.ENDS LT1251
